### PR TITLE
[Merged by Bors] - feat (LinearAlgebra/RootPairing/Finite) : The canonical bilinear form on a finite root pairing

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces the canonical bilinear form for a finite root pairing, and proves some basic properties.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 1]
```diff
@@ -0,0 +1,139 @@
...
+/-- An invariant linear map from weight space to coweight space. -/
+@[simps]
+def Polarization : M →ₗ[R] N where
+  toFun m := ∑ (i : ι), P.toPerfectPairing m (P.coroot i) • (P.coroot i)
+  map_add' x y := by
+    simp only [← toLin_toPerfectPairing, map_add, PerfectPairing.toLin_apply, LinearMap.add_apply,
+      add_smul, Finset.sum_add_distrib]
+  map_smul' r x := by
+    simp only [← toLin_toPerfectPairing, map_smul, LinearMap.smul_apply, RingHom.id_apply,
+      Finset.smul_sum, smul_assoc]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:77]: It's rare that we have to prove linearity manually in situations like this.

I've thought for some time that in `RootSystem.Defs` we should introduce:
```lean
abbrev root' (i : ι) : Dual R N := P.toPerfectPairing (P.root i)
abbrev coroot' (i : ι) : Dual R M := P.toPerfectPairing.flip (P.coroot i)
```
(they're not necessary, just convenient, especially here) and then define this as:
```suggestion
def Polarization : M →ₗ[R] N :=
  ∑ i, LinearMap.toSpanSingleton R N (P.coroot i) ∘ₗ P.coroot' i
 
 @[simp] lemma Polarization_apply (x : M) :
    P.Polarization x = ∑ i, P.toPerfectPairing x (P.coroot i) • P.coroot i := by
  simp [Polarization]
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 2]
```diff
@@ -0,0 +1,139 @@
...
+
+/-- An invariant inner product on the weight space. -/
+@[simps]
+def CanonicalBilinear : M →ₗ[R] M →ₗ[R] R where
+  toFun x := P.toLin x ∘ₗ P.Polarization
+  map_add' x y := by simp only [map_add, LinearMap.add_comp]
+  map_smul' r x := by simp only [LinearMapClass.map_smul, RingHom.id_apply, LinearMap.smul_comp]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:84]: Again, we can avoid proving linearity by hand. What do you think about this naming?
```suggestion
def RootForm : LinearMap.BilinForm R M :=
  ∑ i, (LinearMap.lsmul R R).compl₁₂ (P.coroot' i) (P.coroot' i)

/-- An invariant inner product on the coweight space. -/
def CorootForm : LinearMap.BilinForm R N :=
  ∑ i, (LinearMap.lsmul R R).compl₁₂ (P.root' i) (P.root' i)
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 3]
```diff
@@ -0,0 +1,139 @@
...
+
+lemma isSumSq_of_sum_of_squares [Mul R] [AddCommMonoid R] (s : Finset ι) (f : ι → R) :
+    IsSumSq (∑ i ∈ s, f i * f i) := by
+  induction s using Finset.cons_induction with
+  | empty =>
+    simpa only [Finset.sum_empty] using IsSumSq.zero
+  | cons i s his h =>
+    simp only [Finset.sum_cons]
+    exact IsSumSq.sq_add (f i) (∑ i ∈ s, f i * f i) h
+--#find_home! isSumSq_of_sum_of_squares --returns this file
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:59]: I think there's a very good case for just adding:
```
import Mathlib.Algebra.BigOperators.Group.Finset
```
to `Mathlib.Algebra.Ring.SumsOfSquares` and then placing this lemma there.

I think it should be named `isSumSq_sum_mul_self`.

**Review by ocfnash — COMMENTED** [review]
Thanks so much for this.

Looking great, just some quick comments for now. Will return tomorrow!

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:77]: I shouldn't really write this comment because I haven't had time to think about it and I only have a moment before I start work.

Anyway it occurred to me this morning that in theory one could also define:
```lean
def CoPolarization : N →ₗ[R] M :=
  ∑ i, LinearMap.toSpanSingleton R M (P.root i) ∘ₗ P.root' i
```
and that presumably `Polarization` and `CoPolarization` are mutually inverse and this is equivalent to non-degeneracy of the canonical bilinear forms.

If that's right we might want to delay defining `Polarization` until after non-degeneracy has been defined so that we can instead just define `Polarization` but as a `LinearEquiv` (and no `CoPolarization`).

Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:77]: Yes to your edit. We basically never get an equivalence when 2 is not invertible.  For sl2, \alpha is sent to 4\alpha^*.

Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:77]: I should mention that I only get nondegeneracy when I have `[LinearOrderedCommRing R]`.

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- An invariant inner product on the weight space. -/
+def RootForm : LinearMap.BilinForm R M :=
+  ∑ i, (LinearMap.lsmul R R).compl₁₂ (P.coroot' i) (P.coroot' i)
+
+/-- An invariant inner product on the coweight space. -/
+def CorootForm : LinearMap.BilinForm R N :=
+  ∑ i, (LinearMap.lsmul R R).compl₁₂ (P.root' i) (P.root' i)
+
+@[simp]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:90]:
```suggestion
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+lemma rootForm_apply_apply (x y : M) : P.RootForm x y =
+    ∑ (i : ι), P.toPerfectPairing x (P.coroot i) * P.toPerfectPairing y (P.coroot i) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:92]:
```suggestion
    ∑ i, P.coroot' i x * P.coroot' i y := by
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 6]
```diff
@@ -0,0 +1,143 @@
...
+  simp [RootForm]
+
+lemma rootForm_symmetric :
+    LinearMap.IsSymm P.RootForm := by
+  simp [LinearMap.IsSymm, mul_comm]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:97]:
```suggestion
lemma rootForm_isSymm : P.RootForm.IsSymm := by
  simp [LinearMap.IsSymm, mul_comm, rootForm_apply_apply]
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 7]
```diff
@@ -0,0 +1,143 @@
...
+
+lemma rootForm_reflection_reflection_apply (i : ι) (x y : M) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:99]:
```suggestion
@[simp]
lemma rootForm_reflection_reflection_apply (i : ι) (x y : M) :
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 8]
```diff
@@ -0,0 +1,143 @@
...
+    P.RootForm (P.reflection i x) (P.reflection i y) = P.RootForm x y := by
+  simp only [rootForm_apply_apply, reflection_coroot_perm]
+  exact Fintype.sum_equiv (P.reflection_perm i)
+    (fun x_1 ↦ (P.toPerfectPairing x) (P.coroot ((P.reflection_perm i) x_1)) *
+      (P.toPerfectPairing y) (P.coroot ((P.reflection_perm i) x_1)))
+    (fun x_1 ↦ (P.toPerfectPairing x) (P.coroot x_1) *
+      (P.toPerfectPairing y) (P.coroot x_1)) (congrFun rfl)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:106]:
```suggestion
    (fun j ↦ P.coroot' (P.reflection_perm i j) x * P.coroot' (P.reflection_perm i j) y)
    (fun j ↦ P.coroot' j x * P.coroot' j y) (congrFun rfl)
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 9]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- This is SGA3 XXI Lemma 1.2.1 (10), key for proving nondegeneracy and positivity. -/
+lemma rootForm_self_smul_coroot (P : RootPairing ι R M N) (i : ι) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:109]:
```suggestion
lemma rootForm_self_smul_coroot (i : ι) :
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 10]
```diff
@@ -0,0 +1,143 @@
...
+    (P.RootForm (P.root i) (P.root i)) • P.coroot i = 2 • P.Polarization (P.root i) := by
+  have hP : P.Polarization (P.root i) =
+      ∑ j : ι, P.pairing i (P.reflection_perm i j) • P.coroot (P.reflection_perm i j) := by
+    simp_rw [Polarization_apply, root_coroot_eq_pairing]
+    exact (Fintype.sum_equiv (P.reflection_perm i)
+          (fun j ↦ P.pairing i ((P.reflection_perm i) j) • P.coroot ((P.reflection_perm i) j))
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:115]:
```suggestion
          (fun j ↦ P.pairing i (P.reflection_perm i j) • P.coroot (P.reflection_perm i j))
```

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 11]
```diff
@@ -0,0 +1,143 @@
...
+    ← reflection_perm_coroot, smul_sub, neg_smul, sub_neg_eq_add]
+  rw [Finset.sum_add_distrib, ← add_assoc, ← sub_eq_iff_eq_add]
+  simp only [rootForm_apply_apply, LinearMap.coe_comp, comp_apply, Polarization_apply,
+    root_coroot_eq_pairing, map_sum, LinearMapClass.map_smul, Finset.sum_neg_distrib, ← smul_assoc]
+  rw [Finset.sum_smul, add_neg_eq_zero.mpr rfl]
+  exact sub_eq_zero_of_eq rfl
+
+lemma flip_rootForm_self_smul_root (P : RootPairing ι R M N) (i : ι) :
+    (P.flip.RootForm (P.coroot i) (P.coroot i)) • P.root i =
+      2 • P.flip.Polarization (P.coroot i) :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:130]:
```suggestion
lemma corootForm_self_smul_root (i : ι) :
    (P.CorootForm (P.coroot i) (P.coroot i)) • P.root i = 2 • P.CoPolarization (P.coroot i) :=
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please feel free to merge once you've dealt with the suggestions (several are just nitpicks).

bors d+
